US09422290B2
(5-benzyl-1-methyl-1H-pyrazol-4-yl)boronic acid
5-Benzyl-4-bromo-1-methyl-1H-pyrazole (0.27 g; 1.06 mmol) was dissolved in 5.0 ml anhydrous THF and cooled down to −78° C. Afterwards was added Triisopropyl borate (0.46 ml; 2.01 mmol) and n-BuLi; 1.6 mol/1 in Hexane; (0.69 ml; 1.11 mmol). It was stirred for 1 hour within the desired product was formed. It was warmed to 25° C. and quenched with water. It was purified with reverse phase chromatography by using basic conditions.

reactant | 5-Benzyl-4-bromo-1-methyl-1H-pyrazole | 1.06 mmol, 0.27 g | C(C1=CC=CC=C1)C1=C(C=NN1C)Br | C11H11BrN2
reactant | Triisopropyl borate | 2.01 mmol, 0.46 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-BuLi | [Li]CCCC
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
solvent | Hexane | CCCCCC | C6H14
product | (5-benzyl-1-methyl-1H-pyrazol-4-yl)boronic acid | Yield: 39% | C(C1=CC=CC=C1)C1=C(C=NN1C)B(O)O | C11H13BN2O2
